US07786141B2
(S)-5-oxo-1-((S)-1-phenylethyl)pyrrolidine-3-carboxylic acid (1.16 g, 5 mmol) was treated with CH3OH/HCl (10 mL, 1 M) for 3 h. The excess CH3OH/HCl was removed under reduced pressure. The residue was basified with saturated aqueous NaHCO3 to pH 8. The aqueous phase was extracted with ethyl acetate (50 mL×3). The combined organics were washed with brine, dried over Na2SO4 and evaporated under reduced pressure to give (S)-methyl 5-oxo-1-((S)-1-phenylethyl)pyrrolidine-3-carboxylate, which was used directly in the next step. 1H NMR (300 MHz, CDCl3) δ 7.24-7.37 (m, 5H), 5.48 (q, J=7.2 Hz, 1H), 3.72 (s, 3H), 3.51-3.56 (m, 1H), 3.03-3.21 (m, 2H), 2.62-2.79 (m, 2H), 1.53 (d, J=7.2 Hz, 3H).

reactant | (S)-5-oxo-1-((S)-1-phenylethyl)pyrrolidine-3-carboxylic acid | 5 mmol, 1.16 g | O=C1C[C@@H](CN1[C@@H](C)C1=CC=CC=C1)C(=O)O | C13H15NO3
reactant | CH3OH HCl | 1 M, 10 mL | CO.Cl
product | (S)-methyl 5-oxo-1-((S)-1-phenylethyl)pyrrolidine-3-carboxylate | O=C1C[C@@H](CN1[C@@H](C)C1=CC=CC=C1)C(=O)OC | C14H17NO3
